US05932601
In substantially the same manner as in Reference Example 24, methyl (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienoate was subjected to reduction with diisobutylaluminum hydride to yield (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-ol, which was recrystallized from ethyl acetate to give colorless needles, m.p.149-151° C.

reactant | methyl (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienoate | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)/C=C/C=C/C(=O)OC | C24H23NO5
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadien-1-ol | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)/C=C/C=C/CO | C23H23NO4
